US04833270
2-Amino-4,5-difluorobenzoic acid
A solution of 20 g of 5,6-difluoro-1H-indole-2,3-dione in 200 ml of 2.5N sodium hydroxide was treated dropwise with 35.7 ml of 31.4% hydrogen peroxide. The reaction mixture was warmed to 80° C. for 15 minutes, then treated with charcoal and filtered. The filtrate was cooled in an ice bath and acidified with hydrochloric acid to pH 3.5. The resulting precipitate was crystallized from xylene, giving 14.18 g of the desired compound mp 176°-178° C.

reactant | 5,6-difluoro-1H-indole-2,3-dione | 20 g | FC=1C=C2C(C(NC2=CC1F)=O)=O | C8H3F2NO2
reactant | hydrogen peroxide | 35.7 ml | OO | H2O2
reactant | charcoal | C | CH4
solvent | sodium hydroxide | 2.5N, 200 ml | [OH-].[Na+]
product | 2-Amino-4,5-difluorobenzoic acid | 14.18 g | NC1=C(C(=O)O)C=C(C(=C1)F)F | C7H5F2NO2
